US07566699B2
3-[2-(4-Benzyloxycarbonylphenyl)ethynyl]-4-methoxybenzo[b]thiophene (0.2 g) was dissolved in tetrahydrofuran (3 mL)-ethanol (3 mL). To the solution was added 10% palladium-carbon powder (40 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 14 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=10/1) to give 3-[2-(4-benzyloxycarbonylphenyl)ethyl]-4-methoxybenzo[b]thiophene (0.15 g). This material was dissolved in dichloromethane (4 mL). To the solution was added boron tribromide (0.038 mL) at −78° C., and the mixture was stirred at ambient temperature for 2 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1-1/1) to give 3-[2-(4-carboxyphenyl)ethyl]-4-methoxybenzo[b]thiophene (85 mg). This material was dissolved in dichloromethane (4 mL). To the solution was added boron tribromide (0.057 mL) at −78° C., and the mixture was stirred at the same temperature for 1 hour. Then the mixture was stirred for 1 hour under ice-cooling. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 3-[2-(4-carboxyphenyl)ethyl]-4-hydroxybenzo[b]thiophene (80 mg). This material was dissolved in tetrahydrofuran (1 mL). To the solution were added benzyl alcohol (29 mg), triphenylphosphine (79 mg) and diethyl azodicarboxylate (40% toluene solution, 0.13 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=5/1-3/1) to give the title compound (35 mg).

reactant | 3-[2-(4-Benzyloxycarbonylphenyl)ethynyl]-4-methoxybenzo[b]thiophene | 0.2 g | C(C1=CC=CC=C1)OC(=O)C1=CC=C(C=C1)C#CC=1C2=C(SC1)C=CC=C2OC | C25H18O3S
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 40 mg | [C].[Pd]
product | 3-[2-(4-benzyloxycarbonylphenyl)ethyl]-4-methoxybenzo[b]thiophene | 0.15 g | C(C1=CC=CC=C1)OC(=O)C1=CC=C(C=C1)CCC=1C2=C(SC1)C=CC=C2OC | C25H22O3S
